US06608203B2
N-[2-(3-Methoxyphenyl)ethyl]benzamide
Benzoyl chloride (0.922 g, 6.61 mmol) was added to a solution of 3-methoxyphenethylamine (1.000 g, 6.61 mmol) and Et3N (2.8 ml, 19.8 mmol) in anhydrous THF (30 ml) at rt under N2. The resulting suspension was stirred at rt under N2 for 20 hr. The reaction mixture was filtered and the filtrate was concentrated in vacuo to give 1.811 g of white solid. Purification by flash chromatography, eluting with hexane:EtOAc (7:3) gave 1.689 g (100% yield) of white solid.

reactant | Benzoyl chloride | 6.61 mmol, 0.922 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-methoxyphenethylamine | 6.61 mmol, 1.000 g | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | Et3N | 19.8 mmol, 2.8 ml | CCN(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(3-Methoxyphenyl)ethyl]benzamide | 1.811 g | COC=1C=C(C=CC1)CCNC(C1=CC=CC=C1)=O | C16H17NO2
